US07544688B2
D: [2-(3-Chloro-propoxy)-phenyl]-(2-chloro-9-cyclopentyl-purin-6-yl)-amine
[2-(3-Chloro-propoxy)-phenyl]-(2-chloro-9H-purin-6-yl)-amine (3 mmol), bromo-cyclopentane (4.1 mmol) and potassium carbonate (water free, 3.6 mmol) are suspended in DMF (20 ml) and heated up to 50° C. and the mixture is stirred at this temperature for 5 hours. After cooling to RT the mixture is poured on water and extracted 3 times with ethyl acetate. The combined organic phases are washed twice with brine and the extract is dried over sodium sulfate and evaporated. The residue is purified by flash chromatography on silica gel with (CH2Cl2/MeOH=20:1) as mobile phase. The product containing fractions are combined and evaporated. The product is cristallized from diethyl ether/pentane, filtered off and dried. A solid powder with mp. 110-112° C., Rf=0.78 (CH2Cl2/MeOH=20:1) is obtained.

reactant | [2-(3-Chloro-propoxy)-phenyl]-(2-chloro-9H-purin-6-yl)-amine | 3 mmol | ClCCCOC1=C(C=CC=C1)NC1=C2N=CNC2=NC(=N1)Cl | C14H13Cl2N5O
reactant | bromo-cyclopentane | 4.1 mmol | BrC1CCCC1 | C5H9Br
reactant | potassium carbonate | 3.6 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | [2-(3-Chloro-propoxy)-phenyl]-(2-chloro-9-cyclopentyl-purin-6-yl)-amine | ClCCCOC1=C(C=CC=C1)NC1=C2N=CN(C2=NC(=N1)Cl)C1CCCC1 | C19H21Cl2N5O
